US08026234B2
Compound 18: 6-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2H-benzo[b][1,4]oxazin-3(4H)-one
The title compound was synthesized using an analogous procedure to that described in connection with 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid from 2-Chloro-9-cyclopentyl-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one and 6-amino-2H-benzo[b][1,4]oxazin-3(4H)-one. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.48-1.80 (m, 6H) 1.95 (br. s, 2H) 3.40 (s, 3H) 4.01 (t, J=14.15 Hz, 2H) 4.52 (s, 2H) 4.72 (t, J=8.08 Hz, 1H) 6.77 (d, J=8.34 Hz, 1H) 7.20 (dd, J=8.59, 2.02 Hz, 1H) 7.46 (d, J=2.27 Hz, 1H) 8.20 (s, 1H) 9.35 (s, 1H) 10.54 (br. s., 1H) [M+H] calc'd for C21H22F2N6O3, 445. found 445.

reactant | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | 2-Chloro-9-cyclopentyl-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one | ClC=1N=CC=2N(C(C(CN(C2N1)C1CCCC1)(F)F)=O)C | C13H15ClF2N4O
reactant | 6-amino-2H-benzo[b][1,4]oxazin-3(4H)-one | NC1=CC2=C(OCC(N2)=O)C=C1 | C8H8N2O2
product | 6-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2H-benzo[b][1,4]oxazin-3(4H)-one | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC1=C(OCC(N1)=O)C=C2 | C21H22F2N6O3
